US06635657B1
Preparation of N-(5-Chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]-5-[1-(hydroxyimino)ethyl]benzamide
To a stirring solution of 5-acetyl-N-(5-chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide (0.25 g, 0.56 mmol) in methanol (2 mL) was added sodium acetate (0.1 g, 1.2 mmol) followed by hydroxylamine hydrochloride (46 mg, 0.67 mmol). The mixture was stirred overnight at room temperature and concentrated in vacuo. The resulting residue was partitioned between dichloromethane and saturated aqueous sodium bicarbonate, and the layers separated. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified by chromatography over silica gel, eluting with 3% 2 M ammonia/methanol solution in dichloromethane to give 0.22 g (85%) of a white solid.

reactant | 5-acetyl-N-(5-chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]benzamide | 0.56 mmol, 0.25 g | C(C)(=O)C=1C=CC(=C(C(=O)NC2=NC=C(C=C2)Cl)C1)NC(=O)C1CCN(CC1)C(C)C | C23H27ClN4O3
reactant | sodium acetate | 1.2 mmol, 0.1 g | C(C)(=O)[O-].[Na+]
reactant | hydroxylamine hydrochloride | 0.67 mmol, 46 mg | Cl.NO
solvent | methanol | 2 mL | CO | CH4O
product | N-(5-Chloropyridin-2-yl)-2-[(1-isopropylpiperidin-4-ylcarbonyl)amino]-5-[1-(hydroxyimino)ethyl]benzamide | 0.22 g, 85% | ClC=1C=CC(=NC1)NC(C1=C(C=CC(=C1)C(C)=NO)NC(=O)C1CCN(CC1)C(C)C)=O | C23H28ClN5O3
